US07902203B2
2-amino-5-cyclohexylbenzenesulfonamide
A solution of 4-cyclohexylaniline (0.877 g, 5.0 mmol, 1.0 eq) in nitroethane (5 mL) was cooled to −40° C., treated dropwise with chlorosulfonyl isocyanate (0.87 g, (0.523 mL, 6.15 mmol, 1.23 eq), warmed to 0° C., treated with aluminum trichloride (0.85 g, 6.35 mmol, 1.27 eq), heated in a 110° C. oil bath for 30 minutes, cooled to ambient temperature, and poured into 200 mL of ice water. The mixture was filtered and the filter cake was rinsed with cold water, dissolved in 50% H2SO4 (25 mL), heated to reflux for 4 hours, cooled to ambient temperature, poured into 200 mL of ice water, and carefully neutralized to pH 7 with 40% NaOH. The reaction mixture was extracted with ethyl acetate (3×100 mL) and the combined extracts were washed with brine, dried (MgSO4), filtered, and concentrated to give 0.40 g of the desired product (31% yield). MS (ESI+) m/z 255.0 (M+H)+, 272.1 (M+H2O)+, 277.0 (M+Na)+; 1H NMR (300 MHz, DMSO-d6) δ 1.32 (m 4H), 1.71 (m, 6H), 2.36 (m, 1H), 5.64 (s, 2H), 6.72 (d, J=8.09 Hz, 1H), 7.11 (dd, J=8.46, 2.21 Hz, 1H), 7.16 (s, 2H), 7.38 (d, J=2.21 Hz, 1H).

reactant | 4-cyclohexylaniline | 5.0 mmol, 0.877 g, 1.0 eq | C1(CCCCC1)C1=CC=C(N)C=C1 | C12H17N
reactant | chlorosulfonyl isocyanate | ClS(=O)(=O)N=C=O | CClNO3S
reactant | aluminum trichloride | 6.35 mmol, 0.85 g, 1.27 eq | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | nitroethane | 5 mL | [N+](=O)([O-])CC | C2H5NO2
product | 2-amino-5-cyclohexylbenzenesulfonamide | 0.40 g, 31% yield | NC1=C(C=C(C=C1)C1CCCCC1)S(=O)(=O)N | C12H18N2O2S
